US07064124B2
N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-morpholinoaniline
4-Morpholinoaniline (0.214 g, 1.203 mmol), triethylamine (0.122 g, 1.203 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.203 g, 1.203 mmol) were added to a methylene chloride solution (40 ml) of 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.150 g, 0.401 mmol) and the resulting solution was stirred at room temperature for 10 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (ethyl acetate) and then recrystallized from ether to obtain the titled compound (0.109 g, 0.203 mmol, 51%).

reactant | 4-Morpholinoaniline | 1.203 mmol, 0.214 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | triethylamine | 1.203 mmol, 0.122 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.203 mmol, 0.203 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.401 mmol, 0.150 g | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)O)C=CC1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-morpholinoaniline | 0.203 mmol, 0.109 g, 51% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)NC2=CC=C(C=C2)N2CCOCC2)C=CC1)OC(C)=O)C)=O | C29H30N2O8
